US07745641B2
In a similar manner to Step 2 of Example 1, 4-chloro-5-(2,3-epoxypropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)methylindol-2-yl]isoindolinone (77.1 mg, 0.211 mmol) was dissolved in acetonitrile (2.3 mL), and the solution was treated with Compound BD (151 mg, 0.383 mmol), palladium acetate (3.8 mg, 0.017 mmol), tri(o-tolyl)phosphine (10.3 mg, 0.034 mmol) and triethylamine (0.294 mL, 2.11 mmol), followed by purification by slurry using diisopropylether to obtain 4-chloro-5-(2,3-epoxypropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (92.3 mg, yield 79%).

reactant | 4-chloro-5-(2,3-epoxypropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)methylindol-2-yl]isoindolinone | 0.211 mmol, 77.1 mg | ClC1=C2CNC(C2=C(C=C1OCC1CO1)C=1N(C2=CC=C(C=C2C1C)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H36ClN3O5
reactant | tri(o-tolyl)phosphine | 0.034 mmol, 10.3 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 2.11 mmol, 0.294 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2.3 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.017 mmol, 3.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-5-(2,3-epoxypropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 92.3 mg, yield 79% | ClC1=C2CNC(C2=C(C=C1OCC1CO1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C30H34ClN3O5
